US04497651
24.6 parts of 3,7-dichloro-8-chloromethylquinoline and 30 parts of diethylamine were stirred at 55° C. for 6 hours. Water was added and the solid was filtered off with suction and dried. 25 parts of 3,7-dichloro-8-diethylaminomethylquinoline of melting point 54° C. were obtained. The yield corresponds to 89% of theory.

reactant | 3,7-dichloro-8-chloromethylquinoline | ClC=1C=NC2=C(C(=CC=C2C1)Cl)CCl | C10H6Cl3N
reactant | diethylamine | C(C)NCC | C4H11N
solvent | Water | O | H2O
product | 3,7-dichloro-8-diethylaminomethylquinoline | ClC=1C=NC2=C(C(=CC=C2C1)Cl)CN(CC)CC | C14H16Cl2N2
